US08871792B2
(S)-2-Methoxycarbonylamino-3-methylbutyric acid 3-acetyl-5-[N′-((R)-2-carboxy-2-hydroxyethyl)-N′-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazinocarbonyl]pyrazol-1-ylmethyl Ester
(S)-2-Amino-3-methylbutyric acid 3-acetyl-5-[N′-((R)-2-carboxy-2-hydroxyethyl)-N′-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazinocarbonyl]pyrazol-1-ylmethyl ester (21.0 mg, 35 μmol) was combined with DCM (134 μL, 2.1 mmol) and Et3N (15 μL, 0.1 mmol). Methyl chloroformate (2.7 μL, 35 μmol) was added and the mixture was stirred at room temperature for 20 minutes. The solvent was removed in vacuo and the residue was purified by preparative HPLC to yield the title compound (0.7 mg). MS m/z [M+H]+ calc'd for C30H33ClFN5O9, 662.20. found 662.1.

reactant | (S)-2-Amino-3-methylbutyric acid 3-acetyl-5-[N′-((R)-2-carboxy-2-hydroxyethyl)-N′-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazinocarbonyl]pyrazol-1-ylmethyl ester | 35 μmol, 21.0 mg | C(C)(=O)C1=NN(C(=C1)C(=O)NN(CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)C[C@@H](O)C(=O)O)COC([C@H](C(C)C)N)=O | C28H31ClFN5O7
reactant | DCM | 2.1 mmol, 134 μL | C(Cl)Cl | CH2Cl2
reactant | Et3N | 0.1 mmol, 15 μL | CCN(CC)CC | C6H15N
reactant | Methyl chloroformate | 35 μmol, 2.7 μL | ClC(=O)OC | C2H3ClO2
product | (S)-2-Methoxycarbonylamino-3-methylbutyric acid 3-acetyl-5-[N′-((R)-2-carboxy-2-hydroxyethyl)-N′-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazinocarbonyl]pyrazol-1-ylmethyl Ester | 0.7 mg | C(C)(=O)C1=NN(C(=C1)C(=O)NN(CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)C[C@@H](O)C(=O)O)COC([C@H](C(C)C)NC(=O)OC)=O | C30H33ClFN5O9
